US09108944B2
An oil bath was preheated to 180° C. A mixture of 6-chloro-N-(4-methoxybenzyl)-5-(trifluoromethyl)pyridin-3-amine (19.45 g, 61.55 mmol), Zn(CN)2 (8.7 g, 73.86 mmol), and dppf (6.8 g, 12.31 mmol) in DMF (250 mL) was stirred at room temperature while bubbling nitrogen for 5 min. Pd2(dba)3 (2.8 g, 3.07 mmol, 0.05 eq.) was then added and the reaction mixture was placed inside the pre-heated bath. The bath temperature dropped to 160° C. The mixture started refluxing when the bath temperature reached 170° C. (takes 20 min). Refluxed for 10 min. The reaction mixture was cooled to room temperature and it was filtered through a pad of celite. The pad of celite was washed with EtOAc. The solvent was removed using a rotovap hooked up to a high vac. pump. The black residue was partitioned between EtOAc and water. An orange solid (some dppf by-product) precipitated and was filtered and washed with EtOAc. The organic layer was washed with brine (2×), dried over sodium sulfate, and concentrated to dryness. The black residue was dissolved in DCM and loaded onto a silica gel plug. The plug was washed with DCM (to get rid of some of the fast eluting impurities) followed by 1:1 EtOAc/hexanes (to move the desired). The fractions containing the desired were combined, evaporated to dryness and the residue obtained was purified by column chromatography on silica gel eluting with 0 to 50% EtOAc/hexanes to afford 15 g of 5((4-methoxybenzyl)amino)-3-(trifluoromethyl)picolinonitrile as reddish thick oily residue. 1H NMR (300 MHz, DMSO-d6) δ 8.28 (s, 1H), 8.01 (t, 1H), 7.31 (m, 3H), 6.92 (d, 2H), 4.41 (d, 2H), 3.73 (s, 3H).

reactant | 6-chloro-N-(4-methoxybenzyl)-5-(trifluoromethyl)pyridin-3-amine | 61.55 mmol, 19.45 g | ClC1=C(C=C(C=N1)NCC1=CC=C(C=C1)OC)C(F)(F)F | C14H12ClF3N2O
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 73.86 mmol, 8.7 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | dppf | 12.31 mmol, 6.8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Pd2(dba)3 | 3.07 mmol, 2.8 g, 0.05 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5((4-methoxybenzyl)amino)-3-(trifluoromethyl)picolinonitrile | 15 g | COC1=CC=C(CNC=2C=C(C(=NC2)C#N)C(F)(F)F)C=C1 | C15H12F3N3O
